US07105539B2
2-Ethoxycarbonyl-succinic acid 4-tert-butyl ester 1-ethyl ester
Diethyl malonate (31.15 g, 194.48 mmoles) was first transferred at 0° C. to a stirring suspension of sodium hydride (4.67 g, 194.58 mmoles) in dry THF (200 mL). To this resulting mixture, was added dropwise (at 0° C.) a solution of t-butyl bromoacetate (23.00 g, 117.91 mmoles). Formation of a white precipitate was instantly observed. The mixture was then stirred at room temperature until complete consumption of the starting material (1.5 hours as confirmed by TLC: 20% ethyl acetate:80% hexanes). The solvent was then evaporated and the residue was taken-up in 500 mL diethyl ether. This organic phase was washed with water (3×300 mL) and washed once with brine (200 mL) before being dried (anhydrous MgSO4) and evaporated. The obtained residue was first purified by distillation to remove excess malonate and then by flash chromatography (SiO2, 15% ethyl acetate:85% hexanes) to afford 30.00 g (92.8% yield) of the desired compound as an oil: IR (film) 2982, 1733, 1258, 1152, 1037 cm−1; 13C NMR (CDCl3, 100 MHz) 169.5, 168.1, 80.8, 61.2, 47.7, 33.9, 27.6.

reactant | Diethyl malonate | 194.48 mmoles, 31.15 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 194.58 mmoles, 4.67 g | [H-].[Na+]
reactant | t-butyl bromoacetate | 117.91 mmoles, 23.00 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Ethoxycarbonyl-succinic acid 4-tert-butyl ester 1-ethyl ester | 30.00 g, 92.8% yield | C(C)OC(C(CC(=O)OC(C)(C)C)C(=O)OCC)=O | C13H22O6
